US04683325
Methyl 6-methoxy-1-tetralone-2-acetate
To a solution of LDA, prepared from diisopropylamine (0.84 ml) and n-butyl lithium (3.44 ml, 1.6 M in hexane) in 10 ml of THF at -78° was added dropwise a solution of 6-methoxy-1-tetralone (0.88 g, 5.0 mmol) in 5 ml of THF in an atmosphere of nitrogen. To the stirred solution at -78° was then added methyl bromoacetate (0.5 ml, 6.0 mmole) and the mixture was allowed to warm to room temperature. Aqueous work-up and extraction with ether gave, after chromatography on silica gel, the title compound, m.p. 110°-112°.

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | diisopropylamine | 0.84 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.6 M, 3.44 ml | C(CCC)[Li]
reactant | 6-methoxy-1-tetralone | 5.0 mmol, 0.88 g | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
reactant | methyl bromoacetate | 6.0 mmole, 0.5 ml | BrCC(=O)OC | C3H5BrO2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Methyl 6-methoxy-1-tetralone-2-acetate | COC=1C=C2CCC(C(C2=CC1)=O)CC(=O)OC | C14H16O4
